US07456176B2
7-(2-chloro-5-methoxy-phenyl)-6-methyl-benzo[1,2,4]triazin-3-ylamine (0.67 mmol, 1.0 equiv), 1-[2-(4-bromophenoxy)-ethyl] pyrrolidine (0.005 mmol, 1.5 equiv), Cs2CO3 (2.01 mmol, 3.0 equiv), Pd2(dba)3 (0.067 mmol, 0.1 equiv), and Xantphos (0.134 mmol, 0.2 equiv) were dissolved in 20 mL dioxane, placed under an argon atmosphere and refluxed at 100° C. for 18 h. The reaction was cooled to room temperature and filtered. The filtrate was dissolved in EtOAc, washed with saturated NaHCO3 and brine and organic phase was dried (Na2SO4). The organics were concentrated under reduced pressure to afford residue that was precipitated out using EtOAc/hexanes (1:5 v/v) to give [7-(2 chloro-5-methoxy-phenyl)-6-methyl-benzo[1,2,4]triazin-3-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine, as an orange solid (271.2 mg, 83% yield). Rf=0.56 (9:1 DCM/MeOH). MS (ES+) m/z=491. LC retention time 2.72 min.

reactant | 7-(2-chloro-5-methoxy-phenyl)-6-methyl-benzo[1,2,4]triazin-3-ylamine | 0.67 mmol, 1.0 equiv | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)N)C=C1C | C15H13ClN4O
reactant | 1-[2-(4-bromophenoxy)-ethyl] pyrrolidine | 0.005 mmol, 1.5 equiv | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | Cs2CO3 | 2.01 mmol, 3.0 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.134 mmol, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.067 mmol, 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [7-(2 chloro-5-methoxy-phenyl)-6-methyl-benzo[1,2,4]triazin-3-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | ClC1=C(C=C(C=C1)OC)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)OCCN2CCCC2)C=C1C | C27H28ClN5O2
